US05646173
A solution of 1.7 g of (RS)-2-(2,2-dimethoxyethyl)-1-indanone, 25 g of N-acetylethylenediamine and 30 ml of trifluoroacetic acid in 500 ml of ethanol was boiled under reflux for 96 hours. After cooling and adding 21.5 g of sodium hydroxide in 100 ml of water, the mixture was evaporated to about 100 ml. The mixture was treated with 200 ml of ethyl acetate and washed in succession with 100 ml of saturated sodium chloride solution, 1N hydrochloric acid (4×100 ml), 2N sodium hydroxide solution (4×100 ml) and 100 ml of water. The aqueous washings were extracted with 100 ml of ethyl acetate and the organic phases were combined, dried with magnesium sulfate and evaporated in a vacuum. The residue was purified on basic aluminum oxide (III, dichloromethane) and then on silica gel (ethyl acetate). 0.4 g (22%) of N-[2-(1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-ethyl]-acetamide was obtained as a colorless solid.

reactant | (RS)-2-(2,2-dimethoxyethyl)-1-indanone | 1.7 g | COC(CC1C(C2=CC=CC=C2C1)=O)OC | C13H16O3
reactant | N-acetylethylenediamine | 25 g | C(C)(=O)NCCN | C4H10N2O
reactant | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 21.5 g | [OH-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | N-[2-(1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-ethyl]-acetamide | 0.4 g, 22% | N1(C2=C(C=C1)CC1=CC=CC=C12)CCNC(C)=O | C15H16N2O
